Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
possible seizure, left sided weakness
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
The patient is a ___ PMHx IVDA (heroin), fentanyl/Klonopin
abuse, and BZD withdrawal seizure (___) who presents to the ED
with a generalized seizure followed by left sided weakness.

On the day prior to presentation, pt was arrested and
incarcerated (reason unclear). On the day of presentation, pt 
was
in the courthouse when he had a seizure. Per ED (unable to
confirm with courthouse observers), pt had a generalized seizure
lasting minutes. Pt reports LOA during this event but does 
recall
waking up in the courthouse and noticing his left side was weak.
He also had blurry vision. He reports a seizure prior (in ___
that was related to BZD withdrawal but he denies any weakness or
visual symptoms following this seizure. EMS was then called and
he was brought to the ED. He reports being able to walk to the
ambulance but needing assistance.

Of note, on the day prior to presentation (he took no substances
day of presentation), pt reports taking 3mg of Klonopin
(typically takes 4mg/day), 3.5g of fentanyl (typically takes
5g/day), heroin (mixes with fentanyl and injects) and clonidine
0.1mg. He used cocaine and marijuana "several days ago". He also
smokes 1PPD of cigarettes and drinks EtOH occasionally. 

At the time of my assessment, pt reports that his left sided
weakness resolved about 2 hours after his seizure. He also
reports ongoing blurry vision and denies diplopia. He states 
this
is in both of his eyes and with near and distant vision. He
reports mild numbness on the left side. He has constant room
spinning sensation (counterclockwise) that is not positional. He
has never had similar symptoms before.

Of note, he reports a negative HIV test 2 months ago.

On neurologic review of systems, the patient reports
tremulousness and anxiety. Pt denies headache or confusion.
Denies difficulty with producing or comprehending speech. Denies
loss of vision, diplopia, hearing difficulty, dysarthria, or
dysphagia. Denies bowel or bladder incontinence or retention.

On general review of systems, the patient reports intermittent
subject fevers (had no taken temperature). Pt denies chest pain,
palpitations, cough, nausea, vomiting, diarrhea, constipation,
abdominal pain, or rash.

 
Past Medical History:
IV substance use, including heroin
Other illicit substance use
Vertigo
 
Social History:
___
Family History:
Denies any history of stroke or neurological
disease
 
Physical Exam:
Physical Examination:

General: appears in no acute distress, resting comfortably on 
bed. There is a large amplitude direction- and 
frequency-changing tremor of the trunk and lower extremities 
which suppresses on distraction.
HEENT: NCAT, no oropharyngeal lesions, sclerae anicteric
Neck: Supple
___: RRR, no murmurs
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and 
time. Attention to examiner easily maintained. Recalls a 
coherent history. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Content of speech 
demonstrates intact naming (high and low frequency) and no 
paraphasias. Normal prosody. No dysarthria. No evidence of 
hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. Unable to count fingers in
LLQ of L eye. Poor acuity in bilateral eyes (___). On 
fundoscopic exam,
darkened area in L retina (per ophtho, normal variant). On 
confrontational testing he does not gaze to the left, but noted 
by examiner to have full EOM strength when distracted. No 
nystagmus. V1-V3 without deficits to light touch bilaterally. No 
facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. Trapezius strength ___ 
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. Initial no drift, upon examiner 
remark of drift, he has downward drift in left arm. No 
asterixis. Strength is full in the right hemiside. There is 
diffuse giveway weakness in the left side without an upper motor 
neuron pattern of weakness. There is positive Hoover sign of the 
left hip flexors.

- Sensory - Decreased sensation light touch throughout entire L
left (50% relative to R). ___ sensation to light touch
elsewhere (R leg, torso, bilateral arms). 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements. There is a large amplitude direction and 
frequency-changing tremor of the trunk and extremities which 
suppresses on distraction.

- Gait - Ambulates to bathroom safely.
 
Pertinent Results:
LABS:

___ 03:45PM BLOOD WBC-11.6* RBC-4.19* Hgb-12.9* Hct-37.1* 
MCV-89 MCH-30.8 MCHC-34.8 RDW-12.4 RDWSD-40.7 Plt ___
___ 03:45PM BLOOD Glucose-186* UreaN-15 Creat-0.9 Na-139 
K-3.9 Cl-104 HCO3-21* AnGap-18
___ 03:45PM BLOOD Albumin-4.0 Calcium-9.3 Phos-1.4* Mg-1.7
___ 03:45PM BLOOD ALT-29 AST-26 AlkPhos-104 TotBili-0.3
___ 03:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:32AM URINE bnzodzp-NEG barbitr-NEG opiates-POS* 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 08:32AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG

IMAGING:

Noncontrast head CT ___:
No acute intracranial process.

MRI/MRA brain ___:  
IMPRESSION:   
1. Study is moderately degraded by motion. 
2. No evidence of acute infarct. 
3. Grossly patent major intracranial arteries. 
4. Minimal paranasal sinus disease as described. 

 
Brief Hospital Course:
Patient was admitted to Neurology for a possible seizure-like 
event sustained while in courthouse after arrest, and found to 
have left sided weakness and left visual field blurriness on the 
left eye only. Given his history of IV substance abuse, there 
was concern for cardioembolic infarct. MRI/MRA brain was 
performed and showed no infarct or structural lesion to explain 
his symptoms. Ophthalmology examined him and felt his symptoms 
were not attributable to ocular problems, and recommend 
outpatient visual field testing. His left sided weakness and 
sensory changes were overall stable and not attributable to an 
organic neurologic process; his weakness and tremor were felt 
functional, and he was able to ambulate safely.

Of note, he endorsed that he takes high doses of clonazepam, 
fentanyl, and clonidine daily. This was not confirmed as he 
could not provide evidence of prescription from a provider. 
___ PMP showed no evidence of prescriptions for any of 
these medications and only revealed buprenorphine Rx which was 
last filled in ___. He was monitored for signs of 
withdrawal and had no autonomic/vital sign instability to 
suggest benzodiazepine withdrawal. ___ specialty RN 
provided resources for him for detoxification and he was advised 
to follow up with a provider to address his addiction. He was 
subsequently discharged.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine Dose is Unknown  PO Frequency is Unknown 
2. ClonazePAM Dose is Unknown  PO Frequency is Unknown 
3. fentaNYL citrate (bulk) unknown  miscellaneous unknown 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible seizure-like event
Substance abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of a possible 
seizure-like event followed by left sided weakness and decreased 
left vision in the left eye. We performed an MRI of your brain 
which was normal. You were also evaluated by Ophthalmology who 
did not feel there was any abnormality in your eyes. We 
recommend you obtain a detail visual field examination as an 
outpatient in our Ophthalmology clinic. It is unclear what 
precipitated your event; a withdrawal seizure was considered. 
You were observed for 24 hours and it was felt you were not in 
acute benzodiazepine withdrawal. We gave you resources for 
addressing your addiction as an outpatient.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___